* source DATA LOGGER
C_C2         0 +3_3V  0.1uf  
C_C1         0 VCC  0.1uf  
C_C4         0 +3_3V  0.1uf  
R_R24         +3_3V DIN  4.7k  
R_R9         +3_3V DIN  4.7k  
C_C16         0 +3_3V  0.1uF  
R_R4         N16800656 +3_3V  100  
R_R25         N16801380 +3_3V  100  
R_R18         CS_C0 N16788598  100  
R_R11         DOUT +3_3V  4.7k  
C_C13         0 N16777389  22pF  
R_R10         CLK_C N16781618  100  
R_R26         DOUT +3_3V  4.7k  
C_C14         0 N16777410  22pF  
R_R14         +3_3V N16800682  100  
R_R27         +3_3V N16801398  100  
R_R15         +3_3V CS1  4.7k  
R_R28         +3_3V CS3  4.7k  
R_R20         CS_C2 N16791295  100  
R_R3         N16781683 +3_3V  100  
R_R19         CS_C1 N16789865  100  
C_C3         0 +3_3V  0.1uf  
R_R6         DOUT +3_3V  4.7k  
C_C5         0 +3_3V  0.1uf  
R_R16         +3_3V DIN  4.7k  
R_R7         +3_3V N16781715  100  
R_R29         +3_3V DIN  4.7k  
C_C142         0 +3_3V  0.1uf  
C_C15         0 +3_3V  0.1uF  
R_R5         N16801256 +3_3V  100  
X_X1         N16777410 N16777389 QZP100K
R_R17         DOUT +3_3V  4.7k  
R_R13         N16788011 DIN_C  0  
R_R22         +3_3V N16801282  100  
C_C145         GND VDD5  0.1uf  
R_R8         +3_3V CS0  4.7k  
R_R12         DOUT_C N16786342  100  
R_R21         CS_C3 N16792612  100  
R_R23         +3_3V CS2  4.7k  
